US04444584
A mixture of 2,6-dichloroquinoline (6.0 g), 4-aminophenol (3.3 g), hydrochloric acid (3 g) and ethanol (100 ml) was stirred and refluxed for 10 hours. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The ethyl acetate extracts on evaporation gave 4-[N-(6-chloro-2-quinolinyl)-amino]phenol (2.7 g) as a brown solid.

reactant | 2,6-dichloroquinoline | 6.0 g | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 4-aminophenol | 3.3 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | hydrochloric acid | 3 g | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[N-(6-chloro-2-quinolinyl)-amino]phenol | 2.7 g | ClC=1C=C2C=CC(=NC2=CC1)NC1=CC=C(C=C1)O | C15H11ClN2O
